US03950528
3-Amino-1-(3-methoxy-4-chlorobenzyl)-pyrazol-5-one ##SPC41##
59 g of 4-chloro-3-methoxybenzylhydrazine were added dropwise, under nitrogen, to a solution of 50.5 g of β-amino-βethoxyacrylic acid ethyl ester and 1.5 g of p-toluenesulphonic acid in 250 ml of ethanol. After standing overnight, the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 148°, 30 g. (38%).

reactant | 4-chloro-3-methoxybenzylhydrazine | 59 g | ClC1=C(C=C(CNN)C=C1)OC | C8H11ClN2O
reactant | β-amino-βethoxyacrylic acid ethyl ester | 50.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-methoxy-4-chlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)Cl)OC | C11H12ClN3O2
